US07692014B2
Step 8: 4-[(E)-2-Ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
To methyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.1 g, 0.28 mmol) in methanol (10 mL) were added hydroxylamine (1 mL, 50% in water, 15.2 mmol) and sodium hydroxide (63.8 mg, 1.59 mmol). The mixture was stirred at room temperature for 2 h, and 4N hydrochloric acid (0.5 mL, 1.9 mmol) was added. The mixture was concentrated to provide 100 mg of the title compound that was used without further purification in the next step. 1H NMR (DMSO-d6) δ ppm 11.76 (d, 1H, J=1.9 Hz), 8.88 (d, 1H, J=1.9 Hz), 8.60 (s, 1H), 7.83 (d, 1H, J=3.0 Hz), 7.31 (t, 2H, J=8.9 Hz), 7.22 (d, 1H, J=13.2 Hz), 7.05 (t, 2H, J=8.9 Hz), 6.82 (d, 1 H, J=3.0 Hz), 6.66 (d, 1 H, J=13.2 Hz), 5.54 (s, 2H), 3.96 (q, 2H, J=7.0 Hz), 1.28 (t, 3H, J=7.0 Hz). LCMS (APCl, M+H+): 356.

reactant | methyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.28 mmol, 0.1 g | C(C)O/C=C/C1=C2C(=CN=C1C(=O)OC)N(C=C2)CC2=CC=C(C=C2)F | C20H19FN2O3
reactant | hydroxylamine | 15.2 mmol, 1 mL | NO | H3NO
reactant | sodium hydroxide | 1.59 mmol, 63.8 mg | [OH-].[Na+]
reactant | hydrochloric acid | 1.9 mmol, 4N, 0.5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 4-[(E)-2-Ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 100 mg | C(C)O/C=C/C1=C2C(=CN=C1C(=O)NO)N(C=C2)CC2=CC=C(C=C2)F | C19H18FN3O3
